US08957203B2
Step 1: Preparation of 4-methylisoquinoline
To a solution of 4-bromoisoquinoline (1 g, 4.81 mmol) in THF (20 ml) was added [1,3-Bis(diphenylphosphino)propane]nickel(II)chloride (0.026 g, 0.048 mmol) followed by methyl magnesium bromide in diethyl ether (1.923 ml, 5.77 mmol) at room temperature. The reaction mass was stirred at the same temperature for 18 h. The reaction mixture was acidified with 1N HCl and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography (5% ethyl acetate in pet ether) to get desired compound (0.6 g, 78%) as an oil. 1H NMR (400 MHz, DMSO-d6): δ ppm 9.15(s, 1H), 8.37 (s, 1H), 8.13-8.11 (d, J=8 Hz 1H), 8.05-8.03 (d, J=8 Hz, 1H), 7.83 (t, J=8 Hz, 1H), 7.71 (t, J=8 Hz, 1H) 2.59 (s, 3H); GC-MS: MS m/z 143 (M+).

reactant | 4-bromoisoquinoline | 4.81 mmol, 1 g | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
reactant | methyl magnesium bromide | C[Mg]Br
reactant | diethyl ether | 5.77 mmol, 1.923 ml | C(C)OCC | C4H10O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | [1,3-Bis(diphenylphosphino)propane]nickel(II)chloride | 0.048 mmol, 0.026 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 4-methylisoquinoline | 0.6 g, 78% | CC1=CN=CC2=CC=CC=C12 | C10H9N
